US05066667
a) 1-(2,6-diisopropylphenyl)-5-oxo-2-tetrazoline
37.1 g of 2,6-diisopropylphenyl isocyanate and 50 ml of trimethylsilyl azide are stirred for 24 hours at +140° C. The mixture is then cooled to room temperature and stirred with 250 ml of toluene and with 250 ml of water. After 1 hour, the phases are separated and the aqueous phase is extracted with toluene. The combined organic phases are extracted four times with 250 ml of 15% sodium hydroxide solution each time, and then the aqueous phases are combined and washed with ether. After acidification with semi-concentrated hydrochloric acid, crude 1-(2,6-diisopropylphenyl)-5-oxo-2-tetrazoline precipitates. This is recrystallised from a mixture of hexane and toluene in a ratio of 10:1. Melting point 177°-178.5°.

reactant | 2,6-diisopropylphenyl isocyanate | 37.1 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
reactant | trimethylsilyl azide | 50 ml | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 250 ml | O | H2O
product | 1-(2,6-diisopropylphenyl)-5-oxo-2-tetrazoline | C(C)(C)C1=C(C(=CC=C1)C(C)C)N1N=NNC1=O | C13H18N4O
